US04257987
Allylphosphonic acid ethyl ester-chloride, prepared analogously to synergistic agent 16, was reacted with phenol analogously to agent 16 to give allylphosphonic acid ethyl phenyl ester.

reactant | Allylphosphonic acid ethyl ester-chloride | [Cl-].C(C)OP(O)(=O)CC=C
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | allylphosphonic acid ethyl phenyl ester | Yield: 60% | C1(=CC=CC=C1)OP(OCC)(=O)CC=C | C11H15O3P
